US05221761
The trifurylboron is further dissolved in dry tetrahydrofuran (30 ml), one equivalent of 2-furyllithium is added dropwise to the mixture of 0° C. under nitrogen. The precipitate formed is filtered and dried to obtain pure lithium tetra(2-furyl)borate.

reactant | trifurylboron | O1C(=CC=C1)B(C=1OC=CC1)C=1OC=CC1 | C12H9BO3
reactant | 2-furyllithium | one equivalent | O1C(=CC=C1)[Li]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | lithium tetra(2-furyl)borate | O1C(=CC=C1)[B-](C=1OC=CC1)(C=1OC=CC1)C=1OC=CC1.[Li+] | InChI=1S/C16H12BO4.Li/c1-5-13(18-9-1)17(14-6-2-10-19-14,15-7-3-11-20-15)16-8-4-12-21-16;/h1-12H;/q-1;+1
